US04258137
1,8-naphthalenediamine;
benzidine; toluidine; 4,4'-methylenedianiline; 3,3-dimethoxy-4,4'-biphenyldiamine; 3,3'-dichloro-4,4'-biphenyldiamine;

reactant | benzidine | C1(=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C12H12N2
reactant | toluidine | NC=1C(=CC=CC1)C | C7H9N
reactant | 4,4'-methylenedianiline | C(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C13H14N2
reactant | 3,3-dimethoxy-4,4'-biphenyldiamine | COC1(CC(=CC=C1N)C1=CC=C(C=C1)N)OC | C14H18N2O2
reactant | 3,3'-dichloro-4,4'-biphenyldiamine | ClC=1C=C(C=CC1N)C1=CC(=C(C=C1)N)Cl | C12H10Cl2N2
product | 1,8-naphthalenediamine | C1(=CC=CC2=CC=CC(=C12)N)N | C10H10N2
